US20010053528A1
A solution containing 0.511 g (1.86 mmol) ((chloromethyl)phenylethyl)trimethoxysilane in 7.5 mL of THF was treated with 836 μL (3.72 mmol) of dipentylamine. The resultant mixture was heated to 85-90° C. for 20 hours, whereupon it was cooled to room temperature and filtered. Solvent was removed from the filtrate under reduced pressure and the resultant crude product was vacuum distilled to produce Dipentylaminomethyl(phenylethyl)trimethoxysilane as an oily solid (484 mg, 66% yield).

reactant | ((chloromethyl)phenylethyl)trimethoxysilane | 1.86 mmol, 0.511 g | ClCC(C[Si](OC)(OC)OC)C1=CC=CC=C1 | C12H19ClO3Si
reactant | dipentylamine | 3.72 mmol, 836 μL | C(CCCC)NCCCCC | C10H23N
reactant | THF | 7.5 mL | C1CCOC1 | C4H8O
product | Dipentylaminomethyl(phenylethyl)trimethoxysilane | 484 mg, 66% yield | C(CCCC)N(CCCCC)CCO[Si](OC)(OC)CCC1=CC=CC=C1 | C22H41NO3Si
